US07456164B2
Dimethyl-(4-{4-[3-(2-methyl-pyrrolidin-1-yl)-propoxy]-phenyl}-tetrahydro-pyran-4-ylmethyl)-amine
4-(4-Dimethylaminomethyl-tetrahydro-pyran-4-yl)-phenol (500 mg, 2.13 mmol), 1-(3-chloro-propyl)-2-methyl-pyrrolidine (344 mg, 2,13 mmol), DMF (10 ml) and K2CO3 (1.18 g, 8.52 mmol) were reacted together according to general procedure B. The isolated material was subjected to chromatography on silica, eluant 95:4:1 (DCM, MeOH, NH3) to give the title compound as a yellow oil (120 mg, 16%). 1H NMR (400 MHz, CDCl3) δ7.20 (d, 2H), 6.87 (d, 2H), 4.08-3.96 (m, 2H), 3.75 (dt, 2H), 3.55 (td, 2H), 3.18 (td, 1H), 2.98 (m, 1H), 2.40 (s, 2H), 2.29 (m, 1H), 2.20 (m, 1H), 2.16-1.62 (m, 10H), 1.96 (s, 6H), 1.42 (m, 1H), 1.09 (d, 3H).

reactant | 4-(4-Dimethylaminomethyl-tetrahydro-pyran-4-yl)-phenol | 2.13 mmol, 500 mg | CN(C)CC1(CCOCC1)C1=CC=C(C=C1)O | C14H21NO2
reactant | 1-(3-chloro-propyl)-2-methyl-pyrrolidine | 2,13 mmol, 344 mg | ClCCCN1C(CCC1)C | C8H16ClN
reactant | K2CO3 | 8.52 mmol, 1.18 g | C(=O)([O-])[O-].[K+].[K+]
reactant | NH3 | N | H3N
solvent | MeOH | CO | CH4O
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | Dimethyl-(4-{4-[3-(2-methyl-pyrrolidin-1-yl)-propoxy]-phenyl}-tetrahydro-pyran-4-ylmethyl)-amine | 120 mg, 16% | CN(CC1(CCOCC1)C1=CC=C(C=C1)OCCCN1C(CCC1)C)C | C22H36N2O2
